US04431576
Using the procedure of Example 7, 1.26 g of (1R,cis) 2,2-dimethyl-3-[(E)-3-methoxy-3-oxo-1-propenyl]-cyclopropane-1-carboxylic acid and 12.7 ml of 0.5 M/l of diazomethane in methylene chloride were reacted to obtain 0.678 g of methyl (1R,cis) 2,2-dimethyl-3-[(E)-3-methoxy-3-oxo-1-propenyl]-cyclopropane-1-carboxylate with a specific rotation of [α]D20 =-4°±2° (c=0.6% in chloroform).

reactant | (1R,cis) 2,2-dimethyl-3-[(E)-3-methoxy-3-oxo-1-propenyl]-cyclopropane-1-carboxylic acid | 1.26 g | CC1([C@@H]([C@@H]1\C=C\C(=O)OC)C(=O)O)C | C10H14O4
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | methyl (1R,cis) 2,2-dimethyl-3-[(E)-3-methoxy-3-oxo-1-propenyl]-cyclopropane-1-carboxylate | 0.678 g | CC1([C@@H]([C@@H]1\C=C\C(=O)OC)C(=O)OC)C | C11H16O4
